US07662974B2
Preparation of ethyl 3-hydroxy-3-phenylbutanoate
Under nitrogen atmosphere, 30 mL of THF was added to 3.96 g (6.50 mmol, 0.65 equivalent) of (BrZnCH2COOEt.THF)2. Under argon atmosphere, a solution of 1.20 g (10 mmol) of acetophenone in 5 mL of THF was added dropwise while stirring at 0˜5° C. The mixture was stirred at 0˜5° C. for 3 hours. 25 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 50 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 10 mL (×2) of hydrochloric acid, 20 mL of an aqueous saturated sodium chloride solution, 20 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 20 mL of an aqueous saturated sodium chloride solution. The organic layer was dried with anhydrous magnesium sulfate. Concentration under reduced pressure afforded 1.99 g of the desired product (yield 96%).

reactant | BrZnCH2COOEt | Br[Zn]CC(=O)OCC
reactant | acetophenone | 10 mmol, 1.20 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | hydrochloric acid | 1N, 25 mL | Cl | ClH
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 3-hydroxy-3-phenylbutanoate | 1.99 g, yield 96% | OC(CC(=O)OCC)(C)C1=CC=CC=C1 | C12H16O3
